US09376436B2
4M HCl in 1,4-dioxan (20 mL, 80 mmol) was added to a suspension of 4-(5-ethoxy-2-fluoro-phenyl)-5,6-dimethyl-pyridine-2-carbonitrile (which may be prepared as described in Description 51) (1.87 g, 6.92 mmol) in methanol (20 mL) at ambient temperature. The stirred, yellow solution was refluxed under N2 for 9 h. The reaction was concentrated to one third the volume then poured into sat. aq. NaHCO3 (100 ml). The mixture was extracted with EtOAc (3×50 ml). The combined organic extracts were dried (Na2SO4) and evaporated to a colourless oil which solidified. This was purified by SiO2 column chromatography: the oil was dissolved in DCM (15 ml) and the solution was applied to a 100 g cartridge which was then eluted on a Biotage SP4 system with a gradient of EtOAc/iso-hexane (0-80%) to afford methyl 4-(5-ethoxy-2-fluoro-phenyl)-5,6-dimethyl-pyridine-2-carboxylate (D52);

reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxan | 80 mmol, 20 mL | O1CCOCC1 | C4H8O2
reactant | 4-(5-ethoxy-2-fluoro-phenyl)-5,6-dimethyl-pyridine-2-carbonitrile | 6.92 mmol, 1.87 g | C(C)OC=1C=CC(=C(C1)C1=CC(=NC(=C1C)C)C#N)F | C16H15FN2O
reactant | methanol | 20 mL | CO | CH4O
product | methyl 4-(5-ethoxy-2-fluoro-phenyl)-5,6-dimethyl-pyridine-2-carboxylate | C(C)OC=1C=CC(=C(C1)C1=CC(=NC(=C1C)C)C(=O)OC)F | C17H18FNO3
